US07932270B2
6-(2-cyanophenyl)-2-(3-fluorophenethylamino)-N-(pyridin-3-ylmethyl)nicotinamide
A mixture of 6-chloro-2-(3-fluorophenethylamino)-N-(pyridin-3-ylmethyl)nicotinamide (1.0 g, 2.6 mmol), 2-cyanophenyl boronic acid (460 mg, 3.12 mmol), PdCl2(dppf)2 (140 mg, 0.26 mmol), K2CO3 (1.08 g, 7.8 mmol) and anhydrous DMF (8 mL) was degassed with nitrogen for 10 min. The mixture was then stirred at 125° C. for 1 hr. The mixture was filtered through the silica gel pad and washed with EtOAc. The filtrate was concentrated to dryness and purified by silica gel flash chromatography to give the desired product 6-(2-cyanophenyl)-2-(3-fluorophenethylamino)-N-(pyridin-3-ylmethyl)nicotinamide as a pale yellow solid (740 mg, 63%). LRMS (M+H+) m/z 452.1.

reactant | 6-chloro-2-(3-fluorophenethylamino)-N-(pyridin-3-ylmethyl)nicotinamide | 2.6 mmol, 1.0 g | ClC1=NC(=C(C(=O)NCC=2C=NC=CC2)C=C1)NCCC1=CC(=CC=C1)F | C20H18ClFN4O
reactant | 2-cyanophenyl boronic acid | 3.12 mmol, 460 mg | C(#N)C1=C(C=CC=C1)B(O)O | C7H6BNO2
reactant | K2CO3 | 7.8 mmol, 1.08 g | C(=O)([O-])[O-].[K+].[K+]
catalyst | PdCl2(dppf)2 | 0.26 mmol, 140 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 6-(2-cyanophenyl)-2-(3-fluorophenethylamino)-N-(pyridin-3-ylmethyl)nicotinamide | 740 mg, 63% | C(#N)C1=C(C=CC=C1)C1=NC(=C(C(=O)NCC=2C=NC=CC2)C=C1)NCCC1=CC(=CC=C1)F | C27H22FN5O
